US04883799
A solution of 300 mg (0.49 mm) of diethyl N-[4-{1-hydroxy-3-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamate in 9 ml of 1N aqueous sodium hydroxide was stirred under nitrogen at ambient temperature for 72 hours. The reaction mixture was rendered slightly acidic (pH=~4) with 1N hydrochloric acid and filtered. The solid thus collected was washed with water (5 ml) and cold ethanol (5 ml) and dried to give 180 mg (78%) of N-[4-{1-hydroxy-3-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamic acid. mp 275° C. (dec.). Analysis calculated for C22H27N5O7.0.5H2O: C, 54.76; H, 5.80; N, 14.51. Found: C, 54.96; H, 5.88; N, 14.27. NMR (DMSOd6, CF3COOD), delta, 1.35-1.42 (m, 1H), 1.58-1.71 (m, 2H), 1.73-1.85 (m, 1H), 1.86-2.01 (m, 1H), 2.02-2.13 (m, 1H), 2.31 (t, 2H, J=7 Hz), 2.39-2.52 (m, 1H), 2.74-2.89 (m, 2H), 3.08-3.14 and 3.24-3.30 (m, m, 1H), 3.47 (d, 2H, J=3.7 Hz), 4.37 (dd, 1H, J=19.4 Hz, J=4.7 Hz), 7.27-7.30 (m, 2H), 7.78 (d, 2H, J=7.7 Hz).

reactant | diethyl N-[4-{1-hydroxy-3-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamate | 300 mg | OCC(CC1CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)NC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C31H43N5O8
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 9 ml | [OH-].[Na+]
product | N-[4-{1-hydroxy-3-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)prop-2-yl}benzoyl]glutamic acid | 180 mg, 78% | OCC(CC1CC2=C(N=C(N=C2O)N)NC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1 | C22H27N5O7
